US08859550B2
8-Chlorotetrazolo[1,5-a]pyrazine
2-Chloro-3-hydrazinylpyrazine (440 g, 3.0 mol) was suspended in acetic acid (500 mL) and cooled to 10° C. A solution of sodium nitrite (220 g, 3.2 mol) in water (200 mL) at 10° C. was added. The resulting mixture was stirred at 10° C. for 1 h, during which time a crystalline solid precipitated. The precipitate was collected by filtration, washed with ethanol (200 mL) and dried to afford the desired product as a red solid (350 g, 73% yield).

reactant | 2-Chloro-3-hydrazinylpyrazine | 3.0 mol, 440 g | ClC1=NC=CN=C1NN | C4H5ClN4
reactant | sodium nitrite | 3.2 mol, 220 g | N(=O)[O-].[Na+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
product | 8-Chlorotetrazolo[1,5-a]pyrazine | 350 g, 73% yield | ClC=1C=2N(C=CN1)N=NN2 | C4H2ClN5
